US05849755
8.43 g (52 mmol) of N,N'-carbonyldiimidazole were added to a solution of 8.2 g (46 mmol) of 3-amino-7-methoxychroman in 60 ml of THF. During this operation, the solution became warm. After the solution had been stirred at room temperature for one hour, it was evaporated in vacuo. The residue was melted together with 6.51 g (52 mmol) of 3-ethyl-4-methyl-3-pyrrolin-2-one at 160°-170° C. for 1.5 to 2 hours and the mixture was then chromatographed over silica gel using the eluting agent ethyl acetate/petroleum ether 3:1. The main fraction was evaporated and the residue was recrystallized from methanol. 3-(3-Ethyl-4-methyl-2-oxo-3-pyrroline-1-carboxamido)-7-methoxychroman of melting point 118°-119° C. was obtained. This product was introduced by the customary procedure into chlorosulfonic acid which had been cooled to -15° C. The mixture was allowed to come to room temperature and was subsequently stirred for 1 hour. After customary work-up, the sulfochloride was converted into the sulfonamide as described in Example 1. 3-(3-Ethyl-4-methyl-2-oxo-3-pyrroline-1-carboxamido)-6-sulfamoyl-7-methoxychroman had a melting point of 225°-227° C.

reactant | 3-amino-7-methoxychroman | 46 mmol, 8.2 g | NC1COC2=CC(=CC=C2C1)OC | C10H13NO2
reactant | 3-ethyl-4-methyl-3-pyrrolin-2-one | 52 mmol, 6.51 g | C(C)C=1C(NCC1C)=O | C7H11NO
reactant | THF | 60 ml | C1CCOC1 | C4H8O
product | 3-(3-Ethyl-4-methyl-2-oxo-3-pyrroline-1-carboxamido)-7-methoxychroman | C(C)C=1C(N(CC1C)C(=O)NC1COC2=CC(=CC=C2C1)OC)=O | C18H22N2O4
